US05231183
(E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-methyl-1-naphthalenemethanamine hydrochloride (terbinafine)
To 33 ml of tetrahydrofuran were added 5.40 g (22 mmol) of (E)-N-(3-chloro-2-propenyl)-N-methyl-1-naphthalenemethanamine, 210 mg (1.1 mmol) of copper (I) iodide and 356 mg (0.31 mmol) of tetrakis (triphenylphosphine)palladium, and further, 4.35 ml (44 mmol) of n-butylamine and 2.83 ml (23.1 mmol) of tert-butylacetylene under ice cooling. The mixture was stirred for 17 hours at room temperature. The reaction mixture was concentrated and the residue was subjected to silica gel chromatography (n-hexane→n-hexane/ethyl acetate=9/1→4/1). The desired fractions were put together and concentrated under reduced pressure. The oily residue was dissolved in 6 ml of ethanol and 6 ml of 23% hydrogen chloride methanol solution was added thereto. The solvent and excess hydrogen chloride were distilled off. The resulting crystals were suspended in diisopropyl ether, filtered, washed with diisopropyl ether and dried to obtain 6.41 g (yield: 89%) of the above identified compound as white crystalline powder.

reactant | (E)-N-(3-chloro-2-propenyl)-N-methyl-1-naphthalenemethanamine | 22 mmol, 5.40 g | Cl/C=C/CN(CC1=CC=CC2=CC=CC=C12)C | C15H16ClN
reactant | n-butylamine | 44 mmol, 4.35 ml | C(CCC)N | C4H11N
reactant | tert-butylacetylene | 23.1 mmol, 2.83 ml | C(C)(C)(C)C#C | C6H10
catalyst | copper (I) iodide | 1.1 mmol, 210 mg | [Cu]I
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
product | (E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-N-methyl-1-naphthalenemethanamine hydrochloride | yield: 89% | Cl.CC(C#C/C=C/CN(CC1=CC=CC2=CC=CC=C12)C)(C)C | InChI=1S/C21H25N.ClH/c1-21(2,3)15-8-5-9-16-22(4)17-19-13-10-12-18-11-6-7-14-20(18)19;/h5-7,9-14H,16-17H2,1-4H3;1H/b9-5+;
